US07956064B2
4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile (1.0 eq, 20 mg, 0.088 mmol) was dissolved in anhydrous DMF (0.15 ml). Sodium azide (4.0 eq, 23 mg, 0.354 mmol) and ammonium chloride (4.0 eq, 19 mg, 0.354 mmol) were added and the mixture stirred at 120° C. overnight. The reaction mixture was cooled down and water was added. Addition of aqueous 6N HCl induced formation of a precipitate. After filtration and drying in vacuo, 7-(1H-tetrazol-5-yl)thieno[3,2-c]quinolin-4(5H)-one was isolated as a greenish solid (18 mg, 76% yield).). LCMS (ES): 95% pure, m/z 270 [M+1]+, 242 [M+1-N2]+; 1H NMR (DMSO-d6, 400 MHz) δ 7.64 (d, J=5.2, 1H), 7.86 (dd, J=1.6, J=8.4, 1H), 7.89 (d, J=5.2, 1H), 8.09 (d, J=8.0, 1H), 8.16 (d, J=1.6, 1H), 12.03 (s, 1H) ppm.

reactant | 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carbonitrile | 0.088 mmol, 20 mg, 1.0 eq | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C#N | C12H6N2OS
reactant | Sodium azide | 0.354 mmol, 23 mg, 4.0 eq | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.354 mmol, 19 mg, 4.0 eq | [Cl-].[NH4+]
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 0.15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-(1H-tetrazol-5-yl)thieno[3,2-c]quinolin-4(5H)-one | N1N=NN=C1C=1C=CC=2C3=C(C(NC2C1)=O)C=CS3 | C12H7N5OS
